US05663169
To a solution containing (±) 6-chloro-4-cyclopropyl-ethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (12.97 g, 0.041 mol), 4-dimethylaminopyridine (1.02 g, 0.0083 mol), and (-) camphanic acid chloride (14.22 g, 0.06556 mol) in 350 mL of dry dichloromethane, stirred under argon in an ice bath, was added triethylamine (22.84 mL, 0.164 mol). The cooling bath was removed and the reaction was allowed to proceed at room temperature. After 75 min. the reaction was judged complete by thin layer chromatography (SiO2, 4% EtOAc in CHCl3), and the solution was diluted with 500 mL of CHCl3 then washed with 10% citric acid (2X), water (1X), and brine (1X). Drying (MgSO4), filtration, and removal of the solvent in vacuo left a colorless foam. This material was triturated with 200 mL of boiling hexane. On cooling to room temperature the desired diastereomeric camphanate imide precipitated. The solid was collected on a frit, washed with a little cold hexanes and dried in vacuo to give 7.79g of 6-chloro-1-(1S) -camphanoyl-4-cyclopropylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as white crystals. mp: 164°-165° C. HPLC purity: 99.2% @254 nm. 1H-NMR (CDCl3): δ0.77 (s, 3H), 0.86-0.96 (m, 4H), 1.08 (s, 3H), 1.19 (s, 3H), 1.44 (m, 1H), 1.76 (m, 1H), 1.95 (m, 1H), 2.51 (m, 2H), 7.42 (dd, J=2.4,9.0 Hz, 1H), 7.63 (m, 2H).

reactant | (±) 6-chloro-4-cyclopropyl-ethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.041 mol, 12.97 g | ClC=1C=CC2=C(C(OC(N2C#C)=O)(C(F)(F)F)C2CC2)C1 | C14H9ClF3NO2
reactant | (-) camphanic acid chloride | 0.06556 mol, 14.22 g | C12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
reactant | triethylamine | 0.164 mol, 22.84 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 350 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0083 mol, 1.02 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-chloro-1-(1S) -camphanoyl-4-cyclopropylethynyl-4-trifluoromethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 7.79g | ClC=1C=CC2=C(C(OC(N2C(=O)C2[C@@]3(CCC(C2)C3(C)C)C)=O)(C(F)(F)F)C#CC3CC3)C1 | C25H25ClF3NO3
